US07166598B2
To a solution of (2R)-1-tert-butoxycarbonyl-2-(3-hydroxy-4-methylbenzyl)piperazine (7.73 g) and 4-dimethylaminopyridine (620 mg) in dichloromethane (90 ml) was added successively triethylamine (15.82 ml) and tert-butyldiphenylsilyl chloride (26.24 ml) at room temperature. After stirring under reflux for 27.5 hours, water (200 ml) was added to the mixture, and the mixture was extracted with dichloromethane (100 ml, 50 ml×2). The combined organic extracts were washed successively with water and brine, dried over magnesium sulfate, and evaporated under reduced pressure to give crude oil. The oil was purified with column chromatography (silica gel, 500 ml, methanol:dichloromethane 5:95) to give (2R)-1-tert-butoxycarbonyl-2-(3-tert-butyldiphenylsilyloxy-4-methylbenzyl)piperazine (12.07 g) as a solid.

reactant | (2R)-1-tert-butoxycarbonyl-2-(3-hydroxy-4-methylbenzyl)piperazine | 7.73 g | C(C)(C)(C)OC(=O)N1[C@@H](CNCC1)CC1=CC(=C(C=C1)C)O | C17H26N2O3
reactant | triethylamine | 15.82 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldiphenylsilyl chloride | 26.24 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | water | 200 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 620 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | (2R)-1-tert-butoxycarbonyl-2-(3-tert-butyldiphenylsilyloxy-4-methylbenzyl)piperazine | 12.07 g | C(C)(C)(C)OC(=O)N1[C@@H](CNCC1)CC1=CC(=C(C=C1)C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C33H44N2O3Si
